US08372842B2
Bromine (1.39 mL, 27.03 mmol) was added drop wise over 5 minutes to a solution of 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (6.00 g, 23.50 mmol, prepared as described in WO 2007/103308) in absolute ethanol (60 mL) at 0° C. The reaction was stirred at 0° C. for 1 hour. 5% Sodium bicarbonate solution (100 mL) was then added, and the mixture was concentrated to give a slurry. The pH was next adjusted with 1N HCl to a pH of 4. The resulting solid was collected by filtration and dried. This solid was then suspended in ether (50 mL), stirred for 10 minutes, collected by filtration and dried to give 5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (6.8 g, 87%). MS ESI (+) m/z 334 detected. 1H NMR (400 Hz, DMSO-d6) δ 12.68 (s, 1H), 8.34 (s, 1H), 8.13 (s, 1H), 7.18 (d, J=8.8 Hz, 2H), 6.87 (d, J=8.4 Hz, 2H), 5.47 (s, 2H), 3.70 (s, 3H).

reactant | Bromine | 27.03 mmol, 1.39 mL | BrBr | Br2
reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 23.50 mmol, 6.00 g | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | Sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 6.8 g, 87% | BrC1=C(C2=C(N=C1)N(N=C2)CC2=CC=C(C=C2)OC)O | C14H12BrN3O2
